US07863302B2
2-(4-Hydroxy-2-methyl-phenyl)-4-isopropyl-thiazole-5-carboxylic acid ethyl ester
To a solution of 2-bromo-4-isopropyl-thiazole-5-carboxylic acid ethyl ester (834 mg, 3 mmol), 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (1.4 g, 6 mmol) and K2CO3 (828 mg, 6 mmol) in 1,4-dioxane/H2O (30 mL/5 mL) is bubbled nitrogen gas for 10 minutes. To this solution is added tetrakistriphenylphosphine palladium (173 mg, 0.15 mmol). The reaction mixture is stirred at 100° C. overnight. The reaction mixture is concentrated under reduced pressure and the residue is partitioned between EtOAc and 1N HCl. The organic phase is concentrated and purified by column chromatography (gradient: 0 to 15% EtOAc in hexanes) to give the title product (730 mg, 80%). 1H NMR (DMSO-d6) δ 9.99 (s, 1H), 7.68 (d, 1H), 6.68, 6.72 (m, 2H), 4.26 (q, 2H), 3.88 (m, 1H), 2.50 (s, 3H), 1.26 (t, 3H), 1.23 (d, 6H).

reactant | 2-bromo-4-isopropyl-thiazole-5-carboxylic acid ethyl ester | 3 mmol, 834 mg | C(C)OC(=O)C1=C(N=C(S1)Br)C(C)C | C9H12BrNO2S
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 6 mmol, 1.4 g | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | K2CO3 | 6 mmol, 828 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane H2O | 30 mL | O1CCOCC1.O
product | 2-(4-Hydroxy-2-methyl-phenyl)-4-isopropyl-thiazole-5-carboxylic acid ethyl ester | 730 mg, 80% | C(C)OC(=O)C1=C(N=C(S1)C1=C(C=C(C=C1)O)C)C(C)C | C16H19NO3S
